US08859569B2
2-[8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidin-6-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one
1.500 g (3.35 mmol) of 4-amino-2-[8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidin-6-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one was suspended in 6.00 ml (44.56 mmol) of isopentyl nitrite and 4.00 ml (49.66 mmol) of diiodomethane and it was stirred for 2d at 85° C. 4.00 ml isopentyl nitrite and 5 ml NMP were added and the solution was stirred for 4 h at 85° C. The mixture was concentrated by evaporation in the rotary evaporator except the NMP and was purified by preparative HPLC (eluent: acetonitrile/water with 0.1% formic acid, gradient 20:80→100:0). 928 mg (purity 69%, 37% of theor.) of the target compound was obtained.

reactant | 4-amino-2-[8-(2-fluorobenzyl)imidazo[1,5-a]pyrimidin-6-yl]-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | 3.35 mmol, 1.500 g | NC=1C2=C(N=C(N1)C1=NC(=C3N1C=CC=N3)CC3=C(C=CC=C3)F)NC(C2(C)C)=O | C21H18FN7O
reactant | isopentyl nitrite | 44.56 mmol, 6.00 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | diiodomethane | 49.66 mmol, 4.00 ml | ICI | CH2I2
reactant | isopentyl nitrite | 4.00 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 2-[8-(2-Fluorobenzyl)imidazo[1,5-a]pyrimidin-6-yl]-4-iodo-5,5-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-d]pyrimidin-6-one | FC1=C(CC=2N=C(N3C2N=CC=C3)C=3N=C(C2=C(N3)NC(C2(C)C)=O)I)C=CC=C1 | C21H16FIN6O
